US04020177
Step B: Preparation of 8-Acetyl-12-hydroxy-13-(3-trifluoromethylphenoxy)tridecanoic Acid
A solution of ethyl 8-acetyl-12-hydroxy-13-(3-trifluoromethylphenoxy)tridecanoate (17.4 g., 0.038 mole) and sodium hydroxide (4 g., 0.1 mole) in water (30 ml.) and methanol (120 ml.) is heated at 60° for 16 hours. Most of the methanol is then removed by distillation in vacuo. The residue is dissolved in 150 ml. of water and extracted with ether. The aqueous solution is acidified with concentrated hydrochloric acid. The oily product is taken up in ether and dried over sodium sulfate. Ether is evaporated in vacuo to leave the title compound as a viscous oil weighing 12.9 g. The product is purified by column chromatography on 200 g. of silica gel with 2% methanol in chloroform as eluant; pmr (CDCl3) δ 2.10 (3H, s CH3CO); 3.95 (3H, broad s CHO and CH2O); 6.75 (2H, s OH and CO2H).

reactant | ethyl 8-acetyl-12-hydroxy-13-(3-trifluoromethylphenoxy)tridecanoate | 0.038 mole, 17.4 g | C(C)(=O)C(CCCCCCC(=O)OCC)CCCC(COC1=CC(=CC=C1)C(F)(F)F)O | C24H35F3O5
reactant | sodium hydroxide | 0.1 mole, 4 g | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | methanol | 120 ml | CO | CH4O
product | 8-Acetyl-12-hydroxy-13-(3-trifluoromethylphenoxy)tridecanoic Acid | C(C)(=O)C(CCCCCCC(=O)O)CCCC(COC1=CC(=CC=C1)C(F)(F)F)O | C22H31F3O5
